US04154834
Ethyl 3-(3-pyridyl)crotonate (prepared from treating 3-acetylpyridine with ethoxycarbonylmethyltriphenylphosphonium bromide and sodium ethoxide) was hydrogenated in ethanol at 40 p.s.i. with 10% palladium on charcoal catalyst to give ethyl 3-(3-pyridyl)butyrate, b.p. 74° /0.15 mmHg.

reactant | Ethyl 3-(3-pyridyl)crotonate | N1=CC(=CC=C1)\C(=C/C(=O)OCC)\C | C11H13NO2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | ethyl 3-(3-pyridyl)butyrate | N1=CC(=CC=C1)C(CC(=O)OCC)C | C11H15NO2
